US08058045B2
Dry dioxane (0.45 mL) was added to a microwave reaction vial containing tert-butyl 4-((2-amino-5-chloropyridin-4-ylamino)methyl)piperidine-1-carboxylate (23 mg, 0.067 mmol), 5-bromopyrazine-2-carbonitrile (8.3 mg, 0.045 mmol), tris(dibenzylideneacetone)-dipalladium chloroform complex (1.9 mg, 4 mol %), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (2.2 mg, 8 mol %) and sodium tert-butoxide (6.1 mg, 1.4 eq.) under nitrogen. The vial was sealed and nitrogen gas was bubbled through the suspension with stirring for 5 min. The mixture was heated at 90° C. for 30 min under microwave irradiation. The mixture was diluted with methanol and adsorbed onto Isolute SCX-II acidic resin (2 g). The resin was washed with methanol, then 2M ammonia in methanol. The basic fractions were concentrated and the residue was further purified by preparative thin layer chromatography, eluting with 5% MeOH in dichloromethane, to give tert-butyl 4-((5-chloro-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate (12 mg, 60%) as an off-white solid.

reactant | tert-butyl 4-((2-amino-5-chloropyridin-4-ylamino)methyl)piperidine-1-carboxylate | 0.067 mmol, 23 mg | NC1=NC=C(C(=C1)NCC1CCN(CC1)C(=O)OC(C)(C)C)Cl | C16H25ClN4O2
reactant | 5-bromopyrazine-2-carbonitrile | 0.045 mmol, 8.3 mg | BrC=1N=CC(=NC1)C#N | C5H2BrN3
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 2.2 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 6.1 mg, 1.4 eq. | CC(C)([O-])C.[Na+]
solvent | dioxane | 0.45 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-((5-chloro-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate | 12 mg, 60% | ClC=1C(=CC(=NC1)NC1=NC=C(N=C1)C#N)NCC1CCN(CC1)C(=O)OC(C)(C)C | C21H26ClN7O2
